US04025537
A mixture of 8.06 g (0.047 mole) ethyl 2-acetyl-2-pentenoate and 8.43 g (0.047 mole) N-bromosuccinimide in 50 ml of carbon tetrachloride was heated at reflux for 15 minutes. The mixture was quickly cooled to room temperature, and the succinimide removed by filtration. Concentration of the solution in vacuo afforded 11.5 g (98%) of ethyl 2-acetyl-4-bromo-2-pentenoate.

reactant | ethyl 2-acetyl-2-pentenoate | 0.047 mole, 8.06 g | C(C)(=O)C(C(=O)OCC)=CCC | C9H14O3
reactant | N-bromosuccinimide | 0.047 mole, 8.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-acetyl-4-bromo-2-pentenoate | 11.5 g, 98% | C(C)(=O)C(C(=O)OCC)=CC(C)Br | C9H13BrO3
